US08557983B2
methyl 2-(3-amino-2-methylphenoxy)-4-fluorobenzoate
The title compound was prepared by substituting 3-amino-2-methylphenol for 2-methyl-5-indolol and methyl 2,4-difluorobenzoate for ethyl 2,4-difluorobenzoate in EXAMPLE 3A.

reactant | 2-methyl-5-indolol | CC=1NC2=CC=C(C=C2C1)O | C9H9NO
reactant | methyl 2,4-difluorobenzoate | FC1=C(C(=O)OC)C=CC(=C1)F | C8H6F2O2
reactant | ethyl 2,4-difluorobenzoate | FC1=C(C(=O)OCC)C=CC(=C1)F | C9H8F2O2
product | methyl 2-(3-amino-2-methylphenoxy)-4-fluorobenzoate | NC=1C(=C(OC2=C(C(=O)OC)C=CC(=C2)F)C=CC1)C | C15H14FNO3
